Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],1.24516631258
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1],5.510909558069999
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.14829596671
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1],7.78972310887
[C:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[C:1].[C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8],5.36576113938
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.601061507869999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],4.23423095054
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-0.1602562968799999
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],3.5566110179500003
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3])([H:6])[H:7],1.46877897683
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-4.9563767857
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10]>>[C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10].[H:1][C:2]#[C:3],5.63966428698
[C:2]([H:3])(=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]([C:4])[H:6]>>[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.111499936669
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.35810307655
[C:13]([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.22467071305
[C:7]([H:8])#[C:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11]([H:9])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.67786052839
[C:4]([H:5])#[C:6][O:7][C:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9],-1.8877987181
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][C:4]#[C:3],5.8621432222
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.5959251500020001
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.917553927657
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.80996047641
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2][C:3]#[C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1],4.5041075688
[H:1][C:2]1[C:3]([H:4])=[C:5][O:6][C:7]1([H:8])[H:9]>>[H:1][C:2][C:7]([O:6][C:5]#[C:3][H:4])([H:8])[H:9],3.7905889516199993
[C:1]=[C:2]([O:3][C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.6288311446400003
[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-2.52582728021
[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.7815103395700005
[C:1]/[C:2](=[C:3](\[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])[O:5][O:6],4.22055996367
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9]>>[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][C:8][H:9],2.66685408393
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]#[C:5][H:6].[H:1][C:2](=[C:3]=[C:8]([H:9])[C:10]([H:11])[H:12])[H:7],5.64585865865
[C:7]([H:8])[H:9].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.340639221830001
